US06342509B1
3,4,5-Trimethoxyphenyl isocyanate (1.9 g, 9.11 mmol) was added to a solution of 1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropylamine (2.5 g, 7.59 mmol) in methylene chloride (25 ml) under argon atmosphere. The solution was stirred for 45 min., at room temperature, followed by 30 min., at 38° C. The reaction mixture was concentrated in vacuo. The crude product was chromatographed on a silica gel column, eluting with 1.5-2.5% MeOH/CH2Cl2 containing 1% NH4OH to give 1-{1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea (3.7 g).

reactant | 3,4,5-Trimethoxyphenyl isocyanate | 9.11 mmol, 1.9 g | COC=1C=C(C=C(C1OC)OC)N=C=O | C10H11NO4
reactant | 1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropylamine | 7.59 mmol, 2.5 g | ClC=1C=C(CC2CCN(CC2)C[C@@H](C(C)C)N)C=CC1Cl | C17H26Cl2N2
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-{1-(R)-[4-(3,4-dichlorobenzyl)piperidin-1-ylmethyl]-2-methylpropyl}-3-(3,4,5-trimethoxyphenyl)urea | 3.7 g | ClC=1C=C(CC2CCN(CC2)C[C@@H](C(C)C)NC(=O)NC2=CC(=C(C(=C2)OC)OC)OC)C=CC1Cl | C27H37Cl2N3O4
